US20010053779A1
A mixture comprising benzyl 2-[1-(5-guanidino-1H-benzoimidazol-2-yl)ethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate (1.0 g, 2.2 mmol), 10% palladium on carbon (0.5 g), tetrahydrofuran (50 mL) and methanol (50 mL) was hydrogenated at one atmosphere, filtered and concentrated in vacuo to provide N-{2-[1-(4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-2-yl)ethyl]-1H-benzoimidazol-5-yl)-guanidine (0.69 g, 97% yield); LRMS(ESI): Calculated for C16H20N8: 324.4; Found (MH+): 325.2.

reactant | benzyl 2-[1-(5-guanidino-1H-benzoimidazol-2-yl)ethyl]-1,4,6,7-tetrahydroimidazo[4,5-c]pyridine-5-carboxylate | 2.2 mmol, 1.0 g | N(C(=N)N)C1=CC2=C(NC(=N2)C(C)C=2NC3=C(CN(CC3)C(=O)OCC3=CC=CC=C3)N2)C=C1 | C24H26N8O2
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | N-{2-[1-(4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-2-yl)ethyl]-1H-benzoimidazol-5-yl)-guanidine | 0.69 g, 97% yield | N1C(=NC=2CNCCC21)C(C)C2=NC1=C(N2)C=CC(=C1)NC(=N)N | C16H20N8
